* Resistive Load Amplifier
        .lib ../../device_models/sky130_fd_pr/combined_models/sky130.lib.spice tt
        .global VDD GND
        .temp 27

* Design variables injected by my_testbench_template/src/ngspice.py
.include 'design_var.inc'

*********** Unit Under Test ********************
.include "resistive_load_amp.cir"
*********** Test-bench *************************
XDUT VIN VOUT VDD GND RESISTIVE_LOAD_AMP
        * DC bias + AC signal (combined in one source)
        VIN VIN GND DC 0.6 AC 0.001
        
        * Supply
        VDD VDD GND DC 1.8
        
        .control
        set noaskquit
        set wr_singlescale
        set wr_vecnames
        option numdgt=7
        
        * Operating point
        op
        
        echo "I_DD:" > rload_amp_results.txt
        print -i(VDD) >> rload_amp_results.txt
        
        echo "VOUT_DC:" >> rload_amp_results.txt
        print v(VOUT) >> rload_amp_results.txt
        
        echo "VIN_DC:" >> rload_amp_results.txt
        print v(VIN) >> rload_amp_results.txt
        
        

        * my_testbench_template parse-friendly measures
        let i_dd = abs(i(VDD))
        let power_uw = i_dd * 1.8 * 1e6
        let vout_dc = v(VOUT)
        let vin_dc = v(VIN)
        print i_dd power_uw vout_dc vin_dc

        * AC analysis
        ac dec 100 1 10G
        
        * Save AC data
        set hcopydevtype=postscript
        wrdata rload_amp_results.txt_ac.txt frequency db(v(VOUT))

        let gain_vec = db(v(VOUT) / 0.001)
        let gain_db = gain_vec[0]
        let target_gain = gain_db - 3
        let idx = 0
        while idx < length(gain_vec) - 1
          if (gain_vec[idx] >= target_gain) & (gain_vec[idx+1] < target_gain)
            let bandwidth_hz = frequency[idx]
            break
          end
          let idx = idx + 1
        end
        let bandwidth_mhz = real(bandwidth_hz) * 1e-6
        let output_swing_v = op1.vout_dc
        if (1.8 - op1.vout_dc) < output_swing_v
          let output_swing_v = 1.8 - op1.vout_dc
        end
        let power_uw = op1.power_uw
        let fom = (10 ^ (gain_db / 20) * bandwidth_mhz * output_swing_v) / power_uw
        print gain_db bandwidth_mhz output_swing_v fom
        
        quit
        .endc
        
        .end
        
